US07985876B2
Diallyl bis{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate
At room temperature, 61.9 g (190.02 mmol) of cesium carbonate are added to a solution of 10 g (54.3 mmol) of diallyl malonate and 47.25 g (purity 80%, 130.3 mmol) of methyl 4-(2-iodoethyl)benzoate in 100 ml DMF, and the mixture is then stirred at room temperature overnight. After the reaction has gone to completion, the reaction solution is evaporated to dryness and the residue is taken up in 100 ml of water and 100 ml of diethyl ether. The aqueous phase is extracted five times with diethyl ether and the combined organic phases are washed with saturated sodium chloride solution and dried over magnesium sulfate. After filtration, the solvent is removed under reduced pressure and the residue is purified by flash chromatography on silica gel (mobile phase: petroleum ether/ethyl acetate 10:1→5:1). This gives 22.64 g (44.52 mmol, 82% of theory) of a yellowish oil.

reactant | cesium carbonate | 190.02 mmol, 61.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diallyl malonate | 54.3 mmol, 10 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | methyl 4-(2-iodoethyl)benzoate | 130.3 mmol, 47.25 g | ICCC1=CC=C(C(=O)OC)C=C1 | C10H11IO2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Diallyl bis{2-[4-(methoxycarbonyl)phenyl]ethyl}malonate | COC(=O)C1=CC=C(C=C1)CCC(C(=O)OCC=C)(C(=O)OCC=C)CCC1=CC=C(C=C1)C(=O)OC | C29H32O8
